US06531491B1
To 1H-indole-6-carboxylic acid (2.0 g, 12.42mmol) in water (10 0 mL) was added NaNO2 (8.56 g, 124.2 mmol). To this suspension was then slowly added dropwise via addition funnel 6N HCL (16mL). The resulting slurry was allowed to stir at room temperature overnight. The solid precipitate was filtered and washed with water (50 mL) to provide 2.35 g (100%) of 3-formyl-1H-indazole-6-carboxylic acid. 1H NMR (DMSO-d6) δ 14.46 (1H, s), 10.21 (1H, s), 8.26 (1H, s), 8.20 (1H, d, J=8.5 Hz), 7.90 (1H, d, J=8.3 Hz). MS (APCI positive) 205 (methyl ester).

reactant | 1H-indole-6-carboxylic acid | 12.42mmol, 2.0 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | NaNO2 | 124.2 mmol, 8.56 g | N(=O)[O-].[Na+]
reactant | water | 0 mL | O | H2O
product | 3-formyl-1H-indazole-6-carboxylic acid | 2.35 g, 100% | C(=O)C1=NNC2=CC(=CC=C12)C(=O)O | C9H6N2O3
